US03987024
4-t-Butylazo-4,6-dimethyl-3-thiaheptyl 4-t-butylazo-4-cyanovalerate
To a solution of 6.5 grams (.0264 moles) of 2-t-butylazo-2-(β-hydroxyethylthio)-4-methylpentane and 2.5 grams (.031 moles) of pyridine in 50 ml of pentane in a beaker was added 5.75 grams (.025 moles) of 4-t-butylazo-4-cyanovaleryl chloride dropwise while holding the reaction temperature at 25° C ± 2° C. After the addition was complete, the reaction was stirred an additional 1/2 hour at 25° C, 50 ml of water added and the pentane layer separated. The pentane layer was successively washed with 25 ml of 10% HCl, 25 ml of water and 25 ml of 10% NaHCO3 solution, dried over anhydrous Na2SO4, filtered and the pentane evaporated under reduced pressure to leave a viscous tan liquid weighing 7.3 grams (66% yield). The product was purified by chromatographing it over alumina and eluting it with pentane. Evaporation of the pentane left a yellow viscous liquid whose infrared spectrum was in agreement with the structure of the desired product.

reactant | 2-t-butylazo-2-(β-hydroxyethylthio)-4-methylpentane | .0264 moles, 6.5 grams | C(C)(C)(C)N=NC(C)(CC(C)C)SCCO | C12H26N2OS
reactant | pyridine | .031 moles, 2.5 grams | N1=CC=CC=C1 | C5H5N
reactant | 4-t-butylazo-4-cyanovaleryl chloride | .025 moles, 5.75 grams | C(C)(C)(C)N=NC(CCC(=O)Cl)(C)C#N | C10H16ClN3O
reactant | water | 50 ml | O | H2O
solvent | pentane | 50 ml | CCCCC | C5H12
product | 4-t-Butylazo-4,6-dimethyl-3-thiaheptyl 4-t-butylazo-4-cyanovalerate | 66% yield | C(C)(C)(C)N=NC(CCC(=O)OCCSC(CC(C)C)(C)N=NC(C)(C)C)(C)C#N | C22H41N5O2S
